US05919748
L-lysine hydrochloride (18.3 g, 0.1 mols) and 2.0 g (0.2 mols) of sodium hydroxide were dissolved in 100 ml of water in a three-necked round flask, and 100 ml of i-propanol were added thereto. Then, 24.2 g (0.1 mols) of dodecylglycidyl ether were added dropwise thereto over a period of 30 minutes while being heat-refluxed and stirred. Further, the mixture was stirred under reflux for 3 hours. It was identified through TLC and gas chromatography that dodecylglycidyl ether disappeared. Thereafter, the resulting mixture was neutralized with 10.1 g (0.1 mols) of 36% hydrochloric acid. The reaction solution was concentrated under reduced pressure, and the residue was purified through silica-gel column chromatography (Kieselgel 60, eluent=mixture of chloroform, methanol and acetic acid at a ratio of 3:1:0.5) to give 10.1 g of Nε-(2-hydroxy-3-dodecyloxy)propyl-L-lysine hydrochloride (yield 23.7%).

reactant | L-lysine hydrochloride | 0.1 mols, 18.3 g | Cl.N[C@@H](CCCCN)C(=O)O
reactant | sodium hydroxide | 0.2 mols, 2.0 g | [OH-].[Na+]
reactant | dodecylglycidyl ether | 0.1 mols, 24.2 g | C(CCCCCCCCCCC)OCC1CO1 | C15H30O2
reactant | hydrochloric acid | 0.1 mols, 10.1 g | Cl | ClH
reactant | i-propanol | 100 ml | C(C)(C)O | C3H8O
solvent | water | 100 ml | O | H2O
product | Nε-(2-hydroxy-3-dodecyloxy)propyl-L-lysine hydrochloride | 10.1 g, yield 23.7% | Cl.OC(C)C(CCCCCCCCC)OCCCNCCCC[C@H](N)C(=O)O | InChI=1S/C21H44N2O4.ClH/c1-3-4-5-6-7-8-9-14-20(18(2)24)27-17-12-16-23-15-11-10-13-19(22)21(25)26;/h18-20,23-24H,3-17,22H2,1-2H3,(H,25,26);1H/t18?,19-,20?;/m0./s1
